US07662825B2
N-[5-Bromo-3-(1-methyl-6-oxo-1,6-dihydro-3-pyridinylmethoxy)-2-pyrazinyl]-2,3-dichlorobenzenesulphonamide
Prepared by the method of Example 31 using 5-hydroxymethyl-1-methyl-1H-pyridin-2-one (0.1 g) and 2,3-dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide (0.16 g). Yield 0.035 g.

reactant | 5-hydroxymethyl-1-methyl-1H-pyridin-2-one | 0.1 g | OCC=1C=CC(N(C1)C)=O | C7H9NO2
reactant | 2,3-dichloro-N-(3,5-dibromo-2-pyrazinyl)benzenesulphonamide | 0.16 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1Br)Br | C10H5Br2Cl2N3O2S
product | N-[5-Bromo-3-(1-methyl-6-oxo-1,6-dihydro-3-pyridinylmethoxy)-2-pyrazinyl]-2,3-dichlorobenzenesulphonamide | BrC=1N=C(C(=NC1)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)OCC1=CN(C(C=C1)=O)C | C17H13BrCl2N4O4S
